US05723165
12.5 ml of 4N-HCl/dioxane solution were added to 0.66 g (2.5 mmols) of N-t-butoxycarbonyl-(R)-α-ethoxymethylbenzylamine, and the mixture was stirred at room temperature for one hour. The reaction mixture was concentrated under reduced pressure, 30 ml of ether was added to the residue, and this was further concentrated to obtain (R)-α-ethoxymethylbenzylamine hydrochloride at a quantitative yield.

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | N-t-butoxycarbonyl-(R)-α-ethoxymethylbenzylamine | 2.5 mmols, 0.66 g | C(C)(C)(C)OC(=O)N[C@H](C1=CC=CC=C1)COCC | C15H23NO3
product | (R)-α-ethoxymethylbenzylamine hydrochloride | quantitative yield | Cl.C(C)OC[C@@H](C1=CC=CC=C1)N | InChI=1S/C10H15NO.ClH/c1-2-12-8-10(11)9-6-4-3-5-7-9;/h3-7,10H,2,8,11H2,1H3;1H/t10-;/m0./s1
